US05665747
1-(4-Methyl-2-oxazolyl)-1-(2-thiazolyl)ethanol
From 2-bromothiazole and 2-acetyl-4-methyloxazole (J. Chem. Soc., Chem. Commun., 1984, 258).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-acetyl-4-methyloxazole | C(C)(=O)C=1OC=C(N1)C | C6H7NO2
product | 1-(4-Methyl-2-oxazolyl)-1-(2-thiazolyl)ethanol | CC=1N=C(OC1)C(C)(O)C=1SC=CN1 | C9H10N2O2S
